US07456164B2
3-Methoxyphenylacetonitrile (10 g, 67.9 mmol) in DMF (50 ml) was added slowly to a suspension of NaH (5.04 g, 150 mmol) in DMF (50 ml) at 0° C. under N2. The reaction was allowed to warm to room temperature and stirred for 30 nms. The reaction was cooled to 0° C. and bis(2-chloroethyl)ether (10.7 g, 74.7 mmol) in DMF (100 ml) was added dropwise over 80 min. The reaction was allowed to warm to room temperature and stirred for 1 hour. The reaction was quenched with water (500 ml) and extracted with ethyl acetate (3×100 ml). The combined organic extracts were washed with brine (3×50 ml), dried over MgSO4, filtered, washed with ethyl acetate and concentrated in vacuo. The crude mixture was purified by column chromatography, eluting with heptane increasing the polarity to heptane:ethyl acetate (90:10), to give 4-(3-methoxyphenyl)tetrahydro-pyran-4-carbonitrile (4.1 g, 28%).

reactant | 3-Methoxyphenylacetonitrile | 67.9 mmol, 10 g | COC=1C=C(C=CC1)CC#N | C9H9NO
reactant | NaH | 150 mmol, 5.04 g | [H-].[Na+]
reactant | bis(2-chloroethyl)ether | 74.7 mmol, 10.7 g | ClCCOCCCl | C4H8Cl2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 4-(3-methoxyphenyl)tetrahydro-pyran-4-carbonitrile | 4.1 g, 28% | COC=1C=C(C=CC1)C1(CCOCC1)C#N | C13H15NO2
